US08247429B2
N-[2-(2-methyl-2,6,7,8-tetrahydrocyclopenta[e]indazol-8-yl)ethyl]acetamide
To a solution of N-[2-(2-methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-ylidene)ethyl]acetamide (311 mg, 1.22 mmol) in methanol (12 mL) was added palladium-carbon powder (31 mg), and the mixture was stirred under a hydrogen atmosphere at room temperature for 3 hr. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure and purified by silica gel column chromatography (methanol/ethyl acetate=0/100→25/75) to give the title compound (229 mg, yield 73%).

reactant | N-[2-(2-methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-ylidene)ethyl]acetamide | 1.22 mmol, 311 mg | CN1N=C2C=CC3=C(C2=C1)C(CC3)=CCNC(C)=O | C15H17N3O
solvent | methanol | 12 mL | CO | CH4O
catalyst | palladium-carbon | 31 mg | [C].[Pd]
product | N-[2-(2-methyl-2,6,7,8-tetrahydrocyclopenta[e]indazol-8-yl)ethyl]acetamide | 229 mg, yield 73% | CN1N=C2C=CC3=C(C2=C1)C(CC3)CCNC(C)=O | C15H19N3O
